US05560814
Preparation of N-allyl-S-(2-methoxyethyl)thiouronium bromide
Example 1 was repeated with -allylthiourea and 2-bromoethyl methyl ether, affording the title compound in a yield of 69%.

reactant | allylthiourea | C(C=C)NC(=S)N | C4H8N2S
reactant | 2-bromoethyl methyl ether | COCCBr | C3H7BrO
product | N-allyl-S-(2-methoxyethyl)thiouronium bromide | yield of 69% | [Br-].C(C=C)[NH+]=C(SCCOC)N | InChI=1S/C7H14N2OS.BrH/c1-3-4-9-7(8)11-6-5-10-2;/h3H,1,4-6H2,2H3,(H2,8,9);1H
